US06835732B2
4-{[(2-Hydroxy-ethyl)-methyl-amino]-methyl}-N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-benzamide
3,4-Dimethoxy-benzoic acid 2-{[4-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl carbamoyl)-benzyl]-methyl-amino}-ethyl ester (63 mg, 0.10 mmol) are heated in aqueous sodium hydroxide (1M, 0.5 ml) and ethanol (2 ml) to 100° C. for 30 min. The mixture is diluted with water and extracted twice with ethyl acetate. The combined organic layers are extracted with saturated aqueous sodium hydrogencarbonate, dried and evaporated to dryness. Flash chromatography (silica, eluent methylene chloride containing 5% methanol) affords the product as white crystals in 48% yield. MS: m/e=457 (M+H+).

reactant | 3,4-Dimethoxy-benzoic acid 2-{[4-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl carbamoyl)-benzyl]-methyl-amino}-ethyl ester | 0.10 mmol, 63 mg | COC1=CC=C(C2=C1N=C(S2)NC(=O)C2=CC=C(CN(CCOC(C1=CC(=C(C=C1)OC)OC)=O)C)C=C2)N2CCOCC2 | C32H36N4O7S
reactant | ethanol | 2 ml | C(C)O | C2H6O
solvent | sodium hydroxide | 1M, 0.5 ml | [OH-].[Na+]
solvent | water | O | H2O
product | 4-{[(2-Hydroxy-ethyl)-methyl-amino]-methyl}-N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-benzamide | 48% yield | OCCN(C)CC1=CC=C(C(=O)NC=2SC3=C(N2)C(=CC=C3N3CCOCC3)OC)C=C1 | C23H28N4O4S
